US06518264B2
The operation is carried out under the conditions described in Example 124 starting with 110 mg of activated 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)benzoic acid on TFP resin (121 μM) and 0.025 cm3 of aminomethylcyclohexane. 44 mg of 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)-N-cyclohexylmethylbenzamide are thus obtained in the form of a pale yellow powder whose characteristics are the following [1H NMR spectrum (400 MHz, (CD3)2SO-d6, δ in ppm): 0.92 (mt, 2H), 1.17 (mt, 4H), from 1.45 to 1.80 (mt, 5H), 2.97 (s, 3H), 3.10 (d, J=6 Hz, 2H), 3.80 (mt, 2H), 4.23 (mt, 2H), 4.79 (s, 1H), 7.36 (d, J=8 Hz, 4H), 7.46 (d, J=8 Hz, 4H), from 7.45 to 7.60 (mt, 2H), 7.83 (broad s, 1H), 7.86 (broad d, J=8 Hz, 1H), 8.47 (t, J=6 Hz, 1H)].

reactant | 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)benzoic acid | 110 mg | ClC1=CC=C(C=C1)C(N1CC(C1)=CS(=O)(=O)CC=1C=C(C(=O)O)C=CC1)C1=CC=C(C=C1)Cl | C25H21Cl2NO4S
reactant | aminomethylcyclohexane | 0.025 cm3 | NCC1CCCCC1 | C7H15N
product | 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)-N-cyclohexylmethylbenzamide | 44 mg | ClC1=CC=C(C=C1)C(N1CC(C1)=CS(=O)(=O)CC=1C=C(C(=O)NCC2CCCCC2)C=CC1)C1=CC=C(C=C1)Cl | C32H34Cl2N2O3S
